US07642264B2
3′-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-biphenyl-3-sulfonic acid amide
The title compound was prepared from 2-(3-bromo-phenyl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine (example E.81) (0.200 g, 0.448 mmol) and 3-sulfamoyl-benzeneboronic acid (example F.2) (0.100 g, 0.488 mmol) according to the general procedure VI. Obtained as a white solid (0.040 g, 15%). MS (ISP) 523.3 [(M+H)+]; mp 187° C.

reactant | 2-(3-bromo-phenyl)-6-trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridine | 0.448 mmol, 0.200 g | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C(F)(F)F | C19H10BrF6N
reactant | 3-sulfamoyl-benzeneboronic acid | 0.488 mmol, 0.100 g | S(N)(=O)(=O)C=1C=C(C=CC1)B(O)O | C6H8BNO4S
product | 3′-[6-Trifluoromethyl-4-(4-trifluoromethyl-phenyl)-pyridin-2-yl]-biphenyl-3-sulfonic acid amide | FC(C1=CC(=CC(=N1)C=1C=C(C=CC1)C1=CC(=CC=C1)S(=O)(=O)N)C1=CC=C(C=C1)C(F)(F)F)(F)F | C25H16F6N2O2S
